US07384934B2
Suspend 2-(5-fluoro-2-nitro-phenylamino)-methyl-thiophene-3-carbonitrile (0.7.9 g, 27 mmol) in ethanol (70 ml), add anhydrous tin(II)chloride(15 g, 79 mmol) in concentrated hydrochloric acid (60 ml) and heat the mixture under reflux for 6 hours. Dilute the mixture with water and allow to cool. Collect the precipitate formed by filtration and dry under high vacuum to give 6-fluoro-2-ethyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride as a yellow solid (6.5 g, 82%): mass spectrum (FIA) 262 (M+1).

reactant | 2-(5-fluoro-2-nitro-phenylamino)-methyl-thiophene-3-carbonitrile | 27 mmol | FC=1C=CC(=C(C1)NC=1SC=C(C1C#N)C)[N+](=O)[O-] | C12H8FN3O2S
reactant | tin(II)chloride | 79 mmol, 15 g | [Sn](Cl)Cl
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 60 ml | Cl | ClH
solvent | water | O | H2O
product | 6-fluoro-2-ethyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 6.5 g, 82% | Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N)CC)C1 | InChI=1S/C13H12FN3S.ClH/c1-2-8-6-9-12(15)16-10-4-3-7(14)5-11(10)17-13(9)18-8;/h3-6,17H,2H2,1H3,(H2,15,16);1H
